US07718652B2
In an analogous manner to Example 1, step 8, 3-(3-chloropropyl)-1-(3-fluorophenyl)-3,4-dihydro-1H-2,1,3-benzothiadiazine 2,2-dioxide (32 mg) was reacted with methylamine and then treated with HCl to provide 3-[1-(3-fluorophenyl)-2,2-dioxido-1,4-dihydro-3H-2,1,3-benzothiadiazin-3-yl]-N-methylpropan-1-amine hydrochloride (26 mg):

reactant | 3-(3-chloropropyl)-1-(3-fluorophenyl)-3,4-dihydro-1H-2,1,3-benzothiadiazine 2,2-dioxide | 32 mg | ClCCCN1S(N(C2=C(C1)C=CC=C2)C2=CC(=CC=C2)F)(=O)=O | C16H16ClFN2O2S
reactant | methylamine | CN | CH5N
reactant | HCl | Cl | ClH
product | 3-[1-(3-fluorophenyl)-2,2-dioxido-1,4-dihydro-3H-2,1,3-benzothiadiazin-3-yl]-N-methylpropan-1-amine hydrochloride | 26 mg | Cl.FC=1C=C(C=CC1)N1S(N(CC2=C1C=CC=C2)CCCNC)(=O)=O | InChI=1S/C17H20FN3O2S.ClH/c1-19-10-5-11-20-13-14-6-2-3-9-17(14)21(24(20,22)23)16-8-4-7-15(18)12-16;/h2-4,6-9,12,19H,5,10-11,13H2,1H3;1H
